US06949579B2
10.4 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 770 mg of N-[6-chloro-5-(4-pyridyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 30 cm3 of tetrahydrofuran, and the mixture is refluxed for 18 hours. The reaction medium is diluted with 75 cm3 of ethyl acetate and 75 cm3 of saturated sodium hydrogen carbonate solution. The organic phase is separated out after settling of the phases has taken place, washed with 50 cm3 of saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The crude product obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with ethyl acetate. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); the residue is taken up in 20 cm3 of ethyl acetate, filtered off, washed with 5 cm3 of ethyl acetate and 20 cm3 diethyl ether, and dried under reduced pressure (90 Pa; 45° C.) to give 320 mg of N-[6-chloro-5-(4-pyridyl)-1H-indazol-3-yl]butanamide in the form of white crystals melting above 260° C.

reactant | tetrabutylammonium fluoride | 10.4 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-chloro-5-(4-pyridyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 770 mg | ClC1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C1=CC=NC=C1 | C22H29ClN4O2Si
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
solvent | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | 75 cm3 | C(O)([O-])=O.[Na+]
product | N-[6-chloro-5-(4-pyridyl)-1H-indazol-3-yl]butanamide | 320 mg | ClC1=C(C=C2C(=NNC2=C1)NC(CCC)=O)C1=CC=NC=C1 | C16H15ClN4O
